US08207334B2
Dimethyl diacetoxyfumarate (3.2 g, 12 mmol), 2-amino imidazole (1.03 g, 12 mmol) and p-toluenesulphonic acid (395 mg, 2.0 mmol were mixed in a 25 mL flask and immersed in a preheated oil bath (120° C.). After 6 h, the reaction mixture was cooled to room temperature and ethyl acetate (10 mL) and methanol (0.6 mL) were added to the residue and the mixture was sonicated for 2 min. The resulting precipitate was collected by filtration, washed with cold ethyl acetate (1 mL) and dried on the pump to give crude product. Recrystallization from methanol gave 6-hydroxy-5-oxo-1,5-dihydro-imidazo[1,2-a]pyrimidine-7-carboxylic acid methyl ester (1.03 g, 41%).

reactant | Dimethyl diacetoxyfumarate | 12 mmol, 3.2 g | C(C)(=O)O\C(=C(/C(=O)OC)\OC(C)=O)\C(=O)OC | C10H12O8
reactant | 2-amino imidazole | 12 mmol, 1.03 g | NC=1NC=CN1 | C3H5N3
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 0.6 mL | CO | CH4O
product | 6-hydroxy-5-oxo-1,5-dihydro-imidazo[1,2-a]pyrimidine-7-carboxylic acid methyl ester | 1.03 g, 41% | COC(=O)C=1N=C2N(C(C1O)=O)C=CN2 | C8H7N3O4
